US04864023
Ethyl 8-benzyloxy-6,7-difluoro-1-(formylmethylamino)-4-oxo-1,4-dihydro-3-quinolinecarboxylate (330 mg) was hydrogenated over 5% Pd/C (50 mg) in chloroform (14 ml) for 4 hours. The reaction mixture was diluted with methanol (14 ml) and filtered. The filtered cake was washed with chloroform/methanol (1:1). The combined filtrate was evaporated and the residue was recrystallized from ethanol to give 239 mg of ethyl 6,7-difluoro-1-(formylmethylamino)-8-hydroxy-4-oxo-1,4-dihydro-3-quinolinecarboxylate, mp 221°-225° C. (dec.); MS m/z 326 (M+).

reactant | Ethyl 8-benzyloxy-6,7-difluoro-1-(formylmethylamino)-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 330 mg | C(C1=CC=CC=C1)OC=1C(=C(C=C2C(C(=CN(C12)NCC=O)C(=O)OCC)=O)F)F | C21H18F2N2O5
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 14 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | ethyl 6,7-difluoro-1-(formylmethylamino)-8-hydroxy-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 239 mg | FC=1C=C2C(C(=CN(C2=C(C1F)O)NCC=O)C(=O)OCC)=O | C14H12F2N2O5
